US07115633B2
4-(3,5-Dimethylphenyl)piperidine
1.24 g of 10% Pd on activated carbon were suspended in 15 mL of water, then a solution of 4.4 g (15.86 mmol) of 1-benzyl-4-(3,5-diethylphenyl)-1,2,3,6-tetrahydropyridine in 60 mL of EtOH was added followed by 1 mL of formic acid The resulting mixture was hydrogenated at 45 p.s.i. in a Parr apparatus for 6 h, then the catalyst was filtered off and the solvent was removed in vacuo. The resulting residue was taken up in water, basified with conc. NH4OH solution and extracted with CH2Cl2. The organic phase was dried and the solvent was removed in vacuo, yielding 2.5 g of the title compound, which was used without further purification.

reactant | 1-benzyl-4-(3,5-diethylphenyl)-1,2,3,6-tetrahydropyridine | 15.86 mmol, 4.4 g | C(C1=CC=CC=C1)N1CCC(=CC1)C1=CC(=CC(=C1)CC)CC | C22H27N
reactant | formic acid | 1 mL | C(=O)O | CH2O2
solvent | water | 15 mL | O | H2O
solvent | EtOH | 60 mL | CCO | C2H6O
catalyst | Pd on activated carbon | 1.24 g | [Pd] | Pd
product | 4-(3,5-Dimethylphenyl)piperidine | 2.5 g | CC=1C=C(C=C(C1)C)C1CCNCC1 | C13H19N
